US05385948
EXAMPLE 3--Preparation of Butoxypropyl Pyrrolidone.
360 grams of butoxypropylamine (2.75 moles) and 250 grams of butyrolactone (3.0 moles) were charged to a 1-liter stainless steel autoclave. After purging, the mixture was heated to 275° C. for six hours. The reactor was then cooled and the product discharged. The product was distilled with a simple Vigreux column, initially at atmospheric pressure to remove by-product water and then under vacuum (<1 mm) to recover the product. Butoxypropyl Pyrrolidone distills at about 135° C. to 145° C. under these conditions. The recovery was 391.2 grams of>98% pure Butoxypropyl Pyrrolidone.

reactant | butoxypropylamine | 2.75 moles, 360 grams | C(CCC)OCCCN | C7H17NO
reactant | butyrolactone | 3.0 moles, 250 grams | C1(CCCO1)=O | C4H6O2
product | Butoxypropyl Pyrrolidone | C(CCC)OCCCN1C(CCC1)=O | C11H21NO2
